US05324747
To a solution of 1.4 g (3.44 mmol) of 3-nitro-5-(octadecyloxy)benzenamine and 0.75 ml (5.4 mmol) of triethylamine in 85 ml of THF stirred in an ice bath was added 0.25 ml (3.44 mmol) of acetyl chloride. The ice bath was removed after 15 minutes and the reaction mixture was stirred at room temperature for 17 hours. Triethylamine (0.3 ml) and acetyl chloride (0.15 ml) were added and stirring was continued for 5 hours. The solvent was removed at reduced pressure and the residue was crystallized from ethyl acetate-hexane to give 1.3 g (84% yield, mp 103°-107°) of 3-(acetylamino)-5-(octadecyloxy)nitrobenzene. The structure was confirmed by nmr and mass spectra.

reactant | 3-nitro-5-(octadecyloxy)benzenamine | 3.44 mmol, 1.4 g | [N+](=O)([O-])C=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)N | C24H42N2O3
reactant | triethylamine | 5.4 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.44 mmol, 0.25 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 85 ml | C1CCOC1 | C4H8O
product | 3-(acetylamino)-5-(octadecyloxy)nitrobenzene | 1.3 g, 84% yield | C(C)(=O)NC=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-] | C26H44N2O4
